US04190431
1-Allyl-3-(4'-chlorophenyl)-3-hydroxyurea (6.0 g.) was dissolved in cooled dioxane (50 ml.) and a solution of sodium hydroxide (1.3 g.) in water (15 ml.) was added thereto. Ethyl chloroformate (3.2 g; 2.9 ml.) was added dropwise at 10°-15° C. with stirring and the stirring continued for about 1/2 hour after the addition was completed. The reaction mixture was poured into cold water (300 ml.), stirred and filtered to separate the precipitate. The precipitate was recrystallized from ethanol and dried in vacuo at room temperature to yield 2-(4'-chlorophenyl)-4-allyl-1,2,4-oxadiazolidine-3,5-dione as white needle-like crystals melting 56°-57° C. and having the following elemental analysis as calculated for C11H9ClN2O3 :

reactant | 1-Allyl-3-(4'-chlorophenyl)-3-hydroxyurea | 6.0 g | C(C=C)NC(=O)N(O)C1=CC=C(C=C1)Cl | C10H11ClN2O2
reactant | sodium hydroxide | 1.3 g | [OH-].[Na+]
reactant | Ethyl chloroformate | 2.9 ml, 3.2 g | ClC(=O)OCC | C3H5ClO2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | 15 ml | O | H2O
solvent | water | 300 ml | O | H2O
product | 2-(4'-chlorophenyl)-4-allyl-1,2,4-oxadiazolidine-3,5-dione | ClC1=CC=C(C=C1)N1OC(N(C1=O)CC=C)=O | C11H9ClN2O3
